** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/ota/folded_cascode_test.sch
**.subckt folded_cascode_test
XM2 vint_n vin_p vtail vtail pfet_03v3 L=0.84u W=70u nf=10 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
XM1 vtail vbp_top vdd vdd pfet_03v3 L=1.68u W=18.6u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=14
XM6 vout_n vbp_casc vpint_n vdd pfet_03v3 L=0.28u W=48u nf=12 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM12 vtail vout_n vss vss nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 vout_p vbn_casc vint_p vss nfet_03v3 L=0.28u W=1.8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
XM7 vout_p vbp_casc vpint_p vdd pfet_03v3 L=0.28u W=48u nf=12 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM14 vbp_casc vbn_bot vss vss nfet_03v3 L=1.68u W=2.125u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM15 vbn_bot vbn_bot vss vss nfet_03v3 L=1.68u W=2.125u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
I0 vdd vbn_bot 10u
XM17 vbp_casc vbp_casc vbp_top vdd pfet_03v3 L=0.28u W=8u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM18 vbp_top vbp_top vdd vdd pfet_03v3 L=1.68u W=18.6u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
V3 vdd vss 3.3
V4 vss 0 0
V1 vcm vss {vcm}
XM3 vint_p vin_n vtail vtail pfet_03v3 L=0.84u W=70u nf=10 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
XM4 vpint_n vbp_top vdd vdd pfet_03v3 L=1.68u W=18.6u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=6
XM11 vpint_p vbp_top vdd vdd pfet_03v3 L=1.68u W=18.6u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=6
XM10 vint_n vbn_bot vss vss nfet_03v3 L=1.68u W=2.125u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=24
XM13 vtail vout_p vss vss nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM16 vd_nbias vbp_top vdd vdd pfet_03v3 L=1.68u W=3.72u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM19 vbn_casc vbp_top vdd vdd pfet_03v3 L=1.68u W=33.48u nf=9 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM22 vbn_casc vbn_casc vdsatn_bot vss nfet_03v3 L=0.28u W=1.8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=3
XM21 vdsatn_bot vd_nbias vss vss nfet_03v3 L=1.68u W=2.125u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 vint_p vbn_bot vss vss nfet_03v3 L=1.68u W=2.125u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=24
XM8 vout_n vbn_casc vint_n vss nfet_03v3 L=0.28u W=1.8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
XM20 vd_nbias vd_nbias vdsatn_bot vss nfet_03v3 L=0.28u W=0.6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
E1 vin_p vcm vin vss 0.5
E2 vin_n vcm vin vss -0.5
Vin vin vss DC {vd} AC 1 0
**** begin user architecture code

.param vcm=0.5
.param vd=0
.control
save @m.xm1.m0[id] @m.xm2.m0[id] @m.xm3.m0[id] @m.xm4.m0[id] @m.xm5.m0[id]
save @m.xm6.m0[id] @m.xm7.m0[id] @m.xm8.m0[id] @m.xm9.m0[id] @m.xm10.m0[id]
save @m.xm11.m0[id] @m.xm12.m0[id] @m.xm13.m0[id] @m.xm14.m0[id] @m.xm15.m0[id]
save @m.xm16.m0[id] @m.xm17.m0[id] @m.xm18.m0[id] @m.xm19.m0[id] @m.xm20.m0[id]
save @m.xm21.m0[id] @m.xm22.m0[id]

save @m.xm1.m0[gm] @m.xm2.m0[gm] @m.xm3.m0[gm] @m.xm4.m0[gm] @m.xm5.m0[gm]
save @m.xm6.m0[gm] @m.xm7.m0[gm] @m.xm8.m0[gm] @m.xm9.m0[gm] @m.xm10.m0[gm]
save @m.xm11.m0[gm] @m.xm12.m0[gm] @m.xm13.m0[gm] @m.xm14.m0[gm] @m.xm15.m0[gm]
save @m.xm16.m0[gm] @m.xm17.m0[gm] @m.xm18.m0[gm] @m.xm19.m0[gm] @m.xm20.m0[gm]
save @m.xm21.m0[gm] @m.xm22.m0[gm]

save all
op
write results_op.raw all
noise v(vout_p, vout_n) Vin dec 10 1 1000Meg
.endc


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

**** end user architecture code
**.ends
.end
